US08217029B2
43.i) (RS)—Oxiranylmethyl-carbamic acid benzyl ester
A solution of allyl-carbamic acid benzyl ester (9.6 g, 50 mmol) in DCM (250 mL) was treated with mCPBA (11.55 g, 50 mmol, 75% purity) and the mixture was stirred at rt for 4 h. The pH of the mixture was adjusted to 9 by addition of 1M aq. NaOH. The phases were separated and the org. phase dried over MgSO4 and concentrated. The residue was purified by CC (hex/EA 2:1) to give the desired intermediate (7.4 g, 71% yield) as a colourless oil.

reactant | allyl-carbamic acid benzyl ester | 50 mmol, 9.6 g | C(C1=CC=CC=C1)OC(NCC=C)=O | C11H13NO2
reactant | mCPBA | 50 mmol, 11.55 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NaOH | 1M | [OH-].[Na+]
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | (RS)—Oxiranylmethyl-carbamic acid benzyl ester | 7.4 g, 71% yield | C(C1=CC=CC=C1)OC(NCC1OC1)=O | C11H13NO3
